US05889013
Preparation of 6-[(3,5-difluorophenyl)selenenyl]-1-(ethoxymethyl)-5-ethyluracil (Compound No. 32)
The titled compound was prepared in the same manner as described in Example 13 by using 1-(ethoxymethyl)-5-ethyluracil and bis(3,5-difluorophenyl) diselenide in place of 1-(ethoxymethyl)-5-ethyl-2-thiouracil and diphenyl diselenide, respectively.

reactant | 1-(ethoxymethyl)-5-ethyluracil | C(C)OCN1C(=O)NC(=O)C(=C1)CC | C9H14N2O3
reactant | bis(3,5-difluorophenyl) diselenide | FC=1C=C(C=C(C1)F)[Se][Se]C1=CC(=CC(=C1)F)F | C12H6F4Se2
reactant | diphenyl diselenide | C1(=CC=CC=C1)[Se][Se]C1=CC=CC=C1 | C12H10Se2
product | 6-[(3,5-difluorophenyl)selenenyl]-1-(ethoxymethyl)-5-ethyluracil | Yield: 20% | FC=1C=C(C=C(C1)F)[Se]C1=C(C(NC(N1COCC)=O)=O)CC | C15H16F2N2O3Se
